US07981874B2
[4-(2-Amino-5-thiophen-2-yl-phenylcarbamoyl)-benzyl]-methyl-phosphinic acid ethyl ester.
To a solution of [4-(2-tert-butoxycarbonylamino-5-thiophen-2-yl-phenylcarbamoyl)-benzyl]-methyl-phosphinic acid ethyl ester (500 mg, 0.972 mmol) in DCM (10 mL) was added TFA (5 mL, 64.9 mmol). After 2 h, the solvent was removed, and to the residue was added EtOAc and sat. NaHCO3. The aqueous fraction was extracted further with EtOAc, dried (MgSO4), filtered and the solvent was evaporated under reduced pressure. The material was used without further purification. 1H NMR (DMSO-d6) δ 9.69 (br s, 1H), 7.92 (d, J=7.9 Hz, 2H), 7.44 (m, 1H), 7.39 (dd, J=7.9, 2.0 Hz, 1H), 7.33 (dd, J=5.0, 1.8 Hz, 1H), 7.27 (dd, J=8.2, 2.0 Hz, 1H), 7.21 (dd, J=3.5, 1.0 Hz, 1H), 7.02 (dd, J=5.0, 3.5 Hz, 1H), 6.78 (d, J=8.2 Hz, 1H), 5.13 (s, 2H), 3.97-3.88 (m, 2H), 3.40-3.25 (m, 2H), 1.32 (d, J=13.8 Hz, 3H), 1.27 (t, J=7.0 Hz, 3H). MS: cal'd 415 (MH+), exp 415 (MH+).

reactant | [4-(2-tert-butoxycarbonylamino-5-thiophen-2-yl-phenylcarbamoyl)-benzyl]-methyl-phosphinic acid ethyl ester | 0.972 mmol, 500 mg | C(C)OP(=O)(C)CC1=CC=C(C=C1)C(NC1=C(C=CC(=C1)C=1SC=CC1)NC(=O)OC(C)(C)C)=O | C26H31N2O5PS
reactant | TFA | 64.9 mmol, 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | [4-(2-Amino-5-thiophen-2-yl-phenylcarbamoyl)-benzyl]-methyl-phosphinic acid ethyl ester | C(C)OP(=O)(C)CC1=CC=C(C=C1)C(NC1=C(C=CC(=C1)C=1SC=CC1)N)=O | C21H23N2O3PS
